US06949571B2
1-(2-Pyridyl)-5-bromo-1,2-dihydropyridin-2-one
Under ice-cooling, 15 ml of a dimethylformamide solution containing 1.50 g of 1-(2-pyridyl)-1,2-dihydropyridin-2-one was incorporated with 1.60 g of N-bromosuccinic acid imide. The mixture was stirred at room temperature for 2 hours, and then diluted with water and extracted with ethyl acetate. The organic layer was washed with water and brine, and then dried over magnesium sulfate. The solvent was evaporated, and the residue was purified by silica gel chromatography (ethyl acetate/hexane=1:3), to give 1.13 g of the title compound as a pale brown powder.

reactant | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
reactant | 1-(2-pyridyl)-1,2-dihydropyridin-2-one | 1.50 g | N1=C(C=CC=C1)N1C(C=CC=C1)=O | C10H8N2O
reactant | N-bromosuccinic acid imide | 1.60 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | water | O | H2O
product | 1-(2-Pyridyl)-5-bromo-1,2-dihydropyridin-2-one | 1.13 g | N1=C(C=CC=C1)N1C(C=CC(=C1)Br)=O | C10H7BrN2O
